* Z:\home\aalmela\scm\git\utn\github\electronicaaplicada3\6_Amplificadores_potencia_RF\2_Ejercicios\spice\eje_clase_c_AM.asc
V1 N004 0 SINE(-10 40 100e6 0 0 -90)
L1 N001 N003 {L}
C1 N001 N003 {C}
C2 o N003 100n
V2 N002 0 100V
R1 o 0 {Rd}
G2 N003 0 N004 0 table(-10,0,2,0,10,10,20,10)
C3 N001 0 1µ
R2 N002 N001 0.1
.tran 0 900e-9 200e-9 1e-9
.param Rd = 25.61
.param L = 4.0752e-09
.param C = 6.2156e-10
.options numdgt = 7
.options plotwinsize = 0
.four 100e6 1 I(G2)
.four 100e6 1 V(o)
.backanno
.end
